US07622492B2
Trifluoroacetic acid (15 mL) was added in one portion to a cooled (0° C.) solution of N′-(3,5-dichloro-phenyl)-N′-((1R,4R)-4,7,7-trimethyl-3-oxo-bicyclo[2.2.1]heptane-2-carbonyl)-hydrazinecarboxylic acid tert-butyl ester (˜0.19 mmol) in dichloromethane (15 mL). The mixture was stirred at 0° C. for 5 min and then the cooling bath was removed and the reaction mixture was allowed to warm to room temperature and stir for 4 h. Volatiles were evaporated under reduced pressure and then under high vacuum. Dichloromethane (200 mL) was added. The solution was washed with water (4×125 mL), and brine (100 mL), dried (magnesium sulfate), filtered, evaporated, and dried overnight under high vacuum to give (4S,7R)-2-(3,5-dichloro-phenyl)-7,8,8-trimethyl-1,2,4,5,6,7-hexahydro-4,7-methano-indazol-3-one (7.2 g, 108% of the expected amount). This material was used in subsequent reactions without further purification.

reactant | Trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N′-(3,5-dichloro-phenyl)-N′-((1R,4R)-4,7,7-trimethyl-3-oxo-bicyclo[2.2.1]heptane-2-carbonyl)-hydrazinecarboxylic acid tert-butyl ester | ˜0.19 mmol | C(C)(C)(C)OC(=O)NN(C(=O)C1[C@H]2CC[C@@](C1=O)(C2(C)C)C)C2=CC(=CC(=C2)Cl)Cl | C22H28Cl2N2O4
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (4S,7R)-2-(3,5-dichloro-phenyl)-7,8,8-trimethyl-1,2,4,5,6,7-hexahydro-4,7-methano-indazol-3-one | ClC=1C=C(C=C(C1)Cl)N1NC=2[C@@]3(CC[C@H](C2C1=O)C3(C)C)C | C17H18Cl2N2O
